US08957074B2
To a suspension of 2-chloro-7-cyclopentyl-7H-pyrrolo[2,3-d]pyrimidine-6-carboxylic acid dimethylamide (2.93 g, 10 mmol) in 50 mL Dioxane were added benzophenone imine (1.90 g, 10.5 mmol), Pd(OAc)2 (0.11 g, 0.5 mmol), BINAP (0.31 g, 0.5 mmol) and Cs2CO3 (4.89 g, 15 mmol) and the flask was purged with N2. Then the tube was sealed and the mixture was heated for 1 h at 120° C. Then the suspension was added with heptane and filtered. The precipitate was extracted with DCM and the extract was purified by SiO2 column chromatography to give 2-(benzhydrylidene-amino)-7-(1-ethyl-butyl)-7H-pyrrolo[2,3-d]pyrimidine-6-carboxylic acid dimethylamide (3.5 g, 8.0 mmol, 80% yield). MS m/z 438.5 (M+H)+.

reactant | 2-chloro-7-cyclopentyl-7H-pyrrolo[2,3-d]pyrimidine-6-carboxylic acid dimethylamide | 10 mmol, 2.93 g | CN(C(=O)C1=CC2=C(N=C(N=C2)Cl)N1C1CCCC1)C | C14H17ClN4O
reactant | benzophenone imine | 10.5 mmol, 1.90 g | C(C1=CC=CC=C1)(C1=CC=CC=C1)=N | C13H11N
reactant | Cs2CO3 | 15 mmol, 4.89 g | C(=O)([O-])[O-].[Cs+].[Cs+]
solvent | Dioxane | 50 mL | O1CCOCC1 | C4H8O2
catalyst | Pd(OAc)2 | 0.5 mmol, 0.11 g | CC(=O)[O-].CC(=O)[O-].[Pd+2]
catalyst | BINAP | 0.5 mmol, 0.31 g | C=1C=CC(=CC1)P(C=2C=CC=CC2)C3=CC=C4C=CC=CC4=C3C5=C6C=CC=CC6=CC=C5P(C=7C=CC=CC7)C=8C=CC=CC8 | C44H32P2
product | 2-(benzhydrylidene-amino)-7-(1-ethyl-butyl)-7H-pyrrolo[2,3-d]pyrimidine-6-carboxylic acid dimethylamide | 8.0 mmol, 3.5 g, 80% yield | CN(C(=O)C1=CC2=C(N=C(N=C2)N=C(C2=CC=CC=C2)C2=CC=CC=C2)N1C(CCC)CC)C | C28H31N5O
